US07847101B2
2-(5-Amino-3-methyl-1H-pyrazol-4-yl)-5-fluoro-benzothiazole-6-sulfonic acid (pyridin-4-ylmethyl)-amide (574-22B):
The title compound (15 mg) was prepared from crude 2-(5-amino-3-methyl-1H-pyrazol-4-yl)-5-fluorobenzothiazole-6-sulfonyl chloride, which had been derived from the chlorosulfonation of 90 mg of 4-(5-fluorobenzothiazol-2-yl)-5-methyl-2H-pyrazol-3-ylamine, 32 mg (0.30 mmol) of C-pyridin-4-ylmethylamine, and triethylamine (0.50 mL) in chloroform. MS (m/z, ES+): 419.1 (M+1, 100%), 210.0 (100%). Yield=24%.

reactant | 2-(5-amino-3-methyl-1H-pyrazol-4-yl)-5-fluorobenzothiazole-6-sulfonyl chloride | NC1=C(C(=NN1)C)C=1SC2=C(N1)C=C(C(=C2)S(=O)(=O)Cl)F | C11H8ClFN4O2S2
reactant | 4-(5-fluorobenzothiazol-2-yl)-5-methyl-2H-pyrazol-3-ylamine | 90 mg | FC=1C=CC2=C(N=C(S2)C2=C(NN=C2C)N)C1 | C11H9FN4S
reactant | C-pyridin-4-ylmethylamine | 0.30 mmol, 32 mg | N1=CC=C(C=C1)CN | C6H8N2
reactant | triethylamine | 0.50 mL | C(C)N(CC)CC | C6H15N
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2-(5-Amino-3-methyl-1H-pyrazol-4-yl)-5-fluoro-benzothiazole-6-sulfonic acid (pyridin-4-ylmethyl)-amide | 15 mg, Yield=24% | N1=CC=C(C=C1)CNS(=O)(=O)C1=CC2=C(N=C(S2)C=2C(=NNC2N)C)C=C1F | C17H15FN6O2S2
